US06727256B1
(4-Benzyloxyphenyl)-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride
Prepared according to Procedure A from 4-chloro-6-iodo-7-fluoro-quinazoline hydrochloride (4.02 grams, 11.65 mmoles), anhydrous dioxane (70 ml), dichloromethane (20 ml) and 4-benzyloxyaniline hydrochloride (2.83 grams, 12 mmoles). The mixture was stirred and heated to 110° C. (oil bath temperature) for 16 hours. The mixture was cooled to room temperature and filtered to remove the precipitated solids. The solids were washed with cold anhydrous dioxane (100 ml) followed by cold anhydrous diethyl ether. The yellowish solid was collected and dried under vacuum at room temperature to yield 4.68 grams (79%) of the title compound. δH (400 MHz, DMSO-d6): 11.2(s, 1H), 9.3(d, 1H), 8.79(s, 1H), 7.64(d, 1H), 7.58(d, 2H), 7.44(d, 2H), 7.38(m, 2H), 7.31(m, 1H), 7.09(d, 2H), 5.14(s, 2H) ESI-MS m/z 472(M+1).

reactant | 4-chloro-6-iodo-7-fluoro-quinazoline hydrochloride | 11.65 mmoles, 4.02 grams | Cl.ClC1=NC=NC2=CC(=C(C=C12)I)F
reactant | dioxane | 70 ml | O1CCOCC1 | C4H8O2
reactant | 4-benzyloxyaniline hydrochloride | 12 mmoles, 2.83 grams | Cl.C(C1=CC=CC=C1)OC1=CC=C(N)C=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (4-Benzyloxyphenyl)-(6-iodo-7-fluoro-quinazolin-4-yl)-amine hydrochloride | 4.68 grams, 79% | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)I)F | InChI=1S/C21H15FIN3O.ClH/c22-18-11-20-17(10-19(18)23)21(25-13-24-20)26-15-6-8-16(9-7-15)27-12-14-4-2-1-3-5-14;/h1-11,13H,12H2,(H,24,25,26);1H
